US08859580B2
1-(3-Bromo-propyl)-2-oxo-indan-1-carboxylic acid methyl ester
A solution of 2-oxo-indan-1-carboxylic acid methyl ester (3.8 g) and NaOH (1 M in water, 20 mL) in ethanol (30 mL) is added dropwise to a solution of 1,3-dibromopropane (10 mL) in ethanol (20 mL) at room temperature. The solution is warmed to 40° C. and stirred at this temperature for 2 d. Then, the solution is concentrated under reduced pressure and ethyl acetate is added to the residue. The resulting mixture is washed with water and brine and dried (MgSO4). After removing the solvent, the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 20:1->9:1) to give the title compound as an oil.

reactant | 2-oxo-indan-1-carboxylic acid methyl ester | 3.8 g | COC(=O)C1C(CC2=CC=CC=C12)=O | C11H10O3
reactant | NaOH | 1 M, 20 mL | [OH-].[Na+]
reactant | 1,3-dibromopropane | 10 mL | BrCCCBr | C3H6Br2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(3-Bromo-propyl)-2-oxo-indan-1-carboxylic acid methyl ester | COC(=O)C1(C(CC2=CC=CC=C12)=O)CCCBr | C14H15BrO3
